US05108486
A mixture of 12.6 g (0.109 mole) of pyridine hydrochloride and 11.0 g (0.0363 mole) of 4-(4-ethoxyphenyl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione was heated at 215° C. and stirred for one hour. The mixture was cooled and dissolved in water. The aqueous solution was extracted with a mixture of tetrahydrofuran:diethyl ether (50:50). The organic phase was extracted with an aqueous, 10% sodium hydroxide solution. The basic extract was acidified, forming a precipitate. This solid was collected by filtration and dried to yield 7.1 g of 3-trifluoromethyl-4,5-dihydro-4-(4-hydroxyphenyl)-1-methyl-1,2,4-triazol-5(1H)-thione, mp 150°-152° C. The nmr spectrum was consistent with the proposed structure.

reactant | pyridine hydrochloride | 0.109 mole, 12.6 g | Cl.N1=CC=CC=C1
reactant | 4-(4-ethoxyphenyl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione | 0.0363 mole, 11.0 g | C(C)OC1=CC=C(C=C1)N1C(=NN(C1=S)C)C(F)(F)F | C12H12F3N3OS
solvent | water | O | H2O
product | 3-trifluoromethyl-4,5-dihydro-4-(4-hydroxyphenyl)-1-methyl-1,2,4-triazol-5(1H)-thione | 7.1 g | FC(C1=NN(C(N1C1=CC=C(C=C1)O)=S)C)(F)F | C10H8F3N3OS
